US08461158B2
To a solution of tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(dimethylamino)propyl]amino}-1-piperidinecarboxylate (430 mg, 0.67 mmol) in CH2Cl2 (10 mL), was added TFA (5 mL). The resulting mixture was stirred at room temperature for 30 min. The solvent and excess TFA were removed under vacuum. The residue was diluted with water and neutralized with aqueous NH3. The resulting precipitate was filtered, washed with water, and dried to give N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-(3-piperidinyl)-1,3-propanediamine (323 mg, 88%): 1H NMR (DMSO-d6) (rotamers) δ 7.95 and 7.93 (2d, J=9.5, 8.8 Hz, 1H), 7.77 and 7.71 (2t, JHF=53.1 Hz, 1H), 7.42-7.36 (m, 1H), 6.95 (d, J=1 Hz, 1H), 4.55-4.48 and 4.46-4.39 (2m, 1H), 3.98 (s, 3H), 3.81-3.80 (m, 4H), 3.72-3.70 (m, 4H), 3.55-3.45 (m, 2H), 2.99-2.96 (m, 1H), 2.92-2.89 (m, 1H), 2.77-2.66 (m, 1H), 2.45-2.40 (m, 1H), 2.27 (t, J=6.9 Hz, 2H), 2.16 and 2.12 (2s, 6H), 1.80-1.48 (m, 6H).

reactant | tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(dimethylamino)propyl]amino}-1-piperidinecarboxylate | 0.67 mmol, 430 mg | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CN(CCC1)C(=O)OC(C)(C)C)CCCN(C)C)C=CC=C2OC)F | C31H45F2N9O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-(3-piperidinyl)-1,3-propanediamine | 323 mg, 88% | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CNCCC1)C=CC=C2OC)F | C26H37F2N9O2
